
*LM324
*LM358
*LF353

*LMH6644
*LMH6619
*LM139
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt LM324    1 2 3 4 5
*
  c1   11 12 2.887E-12
  c2    6  7 30.00E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2),(3,0),(4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 21.22E6 -1E3 1E3 20E6 -20E6

  fpos a 0 vlim 1
  w2 3 a vlim sw2
  .model sw2 iswitch (ron=1 ion=0 ioff=-1u roff=10meg)
  w1 a 0 vlim sw1
  .model sw1 iswitch (roff=10meg ioff=0 ion=-1u ron=1)

  fneg 0 b vlim -1
  w3 4 b vlim sw3
  .model sw3 iswitch (ron=1 ion=-1u ioff=0 roff=10meg)
  w4 b 0 vlim sw4
  .model sw4 iswitch (roff=10meg ioff=-1u ion=0 ron=1)


  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 59.61E-9
  iee   3 10 dc 15.09E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   4 11 5.305E3
  rc2   4 12 5.305E3
  re1  13 10 1.845E3
  re2  14 10 1.845E3
  ree  10 99 13.25E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 9.082E3
  vb    9  0 dc 0
  vc    3 53 dc 1.500
  ve   54  4 dc 0.65
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx PNP(Is=800.0E-18 Bf=166.7)
.ends
*$
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt LM358    1 2 3 4 5
*
  x_lm358 1 2 3 4 5 LM324
.ends

*//////////////////////////////////////////////////////////
*LF353 Wide Bandwidth Dual JFET-Input OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |
*                 |   |   |   |   |
.SUBCKT LF353  1   2  99  50  28
*
*Features:
*Low supply current =                1.8mA
*Wide bandwidth =                     4MHz
*High slew rate =                   13V/uS
*Low offset voltage =                 10mV
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*
****************INPUT STAGE**************
*
IOS 2 1 25P
*^Input offset current
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 100U
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 20K
R4 6 50 20K
*Fp2=12 MHz
C4 5 6 3.31573E-13
*
***********COMMON MODE EFFECT***********
*
I2 99 50 1.7MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 5E-3 1
*Input offset voltage.^
R8 99 49 50K
R9 49 50 50K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
F1 9 98 POLY(1) VA3 0 0 0 1.0985E7
G1 98 9 5 6 1E-3
R5 98 9 100MEG
VA3 9 11 0
*Fp1=40.3 HZ
C3 98 11 39.493P
*
***************POLE STAGE***************
*
*Fp3=42 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 3.7894E-15
*
*********COMMON-MODE ZERO STAGE*********
*
G4 98 16 3 49 1E-8
L2 98 17 31.831M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 35
V5  28 25 0.1V
D4  25 15 DX
V4  24 28 0.1V
D3  15 24 DX
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.25E-5 VTO=-2.00 IS=50E-12)
*
.ENDS
*$

* LMH6644 SPICE MODEL rev 10-MAY-05
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.
*/////////////////////////////////////////////////////////////////////
* Legal Notice:
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice.
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND"
*////////////////////////////////////////////////////////////////////
* PINOUT ORDER +IN -IN VCC VEE OUT
* PINOUT ORDER  3   2   7   4   6
.SUBCKT LMH6644 3 2 7 4 6
C4 30 94 7E-20
R50 94 14 700E3
C10 20 96 0.35E-15
R52 96 0 20E3
CC2 14 30 0.0085E-12
E1 39 63 14 62 16
C8 45 0 1E-12
C9 2 0 1E-12
RC1 42 0 1E12
I1 7 46 175E-6
I2 5 4 50E-6
D2 18 0 DVM
I3 7 12 50E-6
C1 13 92 8E-12
D7 23 0 DVM
R1 14 13 100
I4 0 18 1.068E-4
R2 7 15 1
R3 4 16 1
R4 17 98 100
R5 19 97 100
R6 46 8 1
R7 7 21 500
R8 7 22 500
R9 24 80 500
R10 25 80 500
I8 0 23 1.068E-4
I5 26 7 20E-6
I6 80 27 20E-6
I7 28 29 13E-6
E3 3 45 23 18 7.8
D8 37 0 DIM
Q1 30 27 24 Q2M
Q2 14 27 25 Q2M
Q3 34 9 80 Q1M
Q4 9 9 80 Q1M
Q5 92 34 16 Q5M
Q8 34 17 4 Q1M
D9 40 0 DIM
I9 0 37 1.068E-4
Q26 12 12 31 Q1M
Q27 7 12 34 Q1M
Q28 92 8 15 Q28M
Q29 20 19 7 Q29M
Q30 5 5 32 Q29M
Q31 34 5 46 Q29M
Q32 30 26 21 Q33M
Q33 14 26 22 Q33M
Q34 33 28 29 Q29M
Q35 84 35 36 Q35M
Q36 83 2 38 Q35M
R11 33 36 135
R12 33 38 135
Q37 32 32 7 Q29M
Q38 31 31 4 Q1M
R13 20 41 100E3
M1 9 20 46 46 WPM
I10 0 40 1.068E-4
E2 41 39 42 43 1
V3 7 42 2
R14 7 43 10E6
R15 43 80 10E6
D1 46 44 D1M
V4 44 20 0.75
V6 35 45 1E-3
IQA 7 4 -1.00E-3
G3 2 45 40 37 2.3E-4
D3 35 7 D3M
D4 2 7 D3M
D5 64 35 D3M
D6 64 2 D3M
V7 7 29 0.2
G1 0 48 7 0 1
R17 49 48 1
L2 0 49 10E-6
R20 0 49 10
G2 22 21 48 0 7.8E-7
G9 0 57 4 0 1
R21 74 57 1
L5 0 74 12E-6
R22 0 74 120
G10 21 22 57 0 -7.8E-7
R34 81 82 1
L6 82 0 20E-6
R35 82 0 100
G11 21 22 81 0 2.6E-8
G12 0 81 33 0 1
R48 92 6 3
E5 97 7 7 15 -6.7
E6 98 4 16 4 4.85
VCM1 4 80 1.5
VCM2 84 25 0.55
VCM3 83 24 0.55
RN1 62 0 1E12
RN2 63 0 1E12
VF1 62 43 0.99
VF2 7 63 1.2
VCM4 64 4 -0.7
.MODEL Q1M NPN
.MODEL Q2M NPN (VAF=150)
.MODEL Q5M NPN (BF=1000 VAF=125)
.MODEL Q28M PNP (BF=165 VAF=100)
.MODEL Q29M PNP
.MODEL Q33M PNP (VAF=150)
.MODEL Q35M PNP (BF=406 KF=3E-17)
.MODEL WPM PMOS (KP=1E-3 VTO=-0.6)
.MODEL DVM D (IS=1E-16 KF=2.7E-15)
.MODEL DIM D (IS=1E-16 KF=4.5E-15)
.MODEL D1M D (IS=7E-14 M=0.45 N=2 TT=6E-09)
.MODEL D3M D (IS=3E-14)
.ENDS
* END LMH6644 MODEL

*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | |
.subckt LM139    1 2 3 4 5
*
  f1    9  3 v1 1
  iee   3  7 dc 100.0E-6
  vi1  21  1 dc .75
  vi2  22  2 dc .75
  q1    9 21  7 qin
  q2    8 22  7 qin
  q3    9  8  4 qmo
  q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=2.000E3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=475.4E-9)
  e1   10  4  9  4  1
  v1   10 11 dc 0
  q5    5 11  4 qoc
.model qoc NPN(Is=800.0E-18 Bf=20.69E3 Cjc=1E-15 Tf=3.540E-9 Tr=472.8E-9)
  dp    4  3 dx
  rp    3  4 37.50E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends
*$



**********************************************
* BEGIN MODEL LMH6619
*//////////////////////////////////////////////////////////////////////
*Rev.a August-2007
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.
*/////////////////////////////////////////////////////////////////////
* Legal Notice:
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice.
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND"
*////////////////////////////////////////////////////////////////////
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   6  2  1
.SUBCKT LMH6618 3 4 6 2 1
*//////////////////////////////////////////////////////////////////////
* USE V10 BELOW TO ADJUST OFFSET
V10 14 26 -56.5E-6
*/////////////////////////////////////////////////////////////////////
* MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT THRU
* THE SUPPLY RAILS, OUTPUT CURRENT LIMIT, OPEN LOOP GAIN
* AND PHASE WITH RL AND CL EFFECTS, SLEW RATE, COMMON MODE
* REJECTION WITH FREQ EFFECTS, POWER SUPPLY REJECTION WITH
* FREQ EFFECTS, INPUT VOLTAGE NOISE WITH 1/F, INPUT CURRENT
* NOISE WITH 1/F, INPUT BIAS CURRENT, INPUT BIAS CURRENT
* VS COMMON MODE VOLTAGE, INPUT COMMON MODE RANGE, INPUT
* OFFSET VOLTAGE WITH TEMPERATURE EFFECTS, AND QUIESCENT
* CURRENT VS VOLTAGE AND TEMPERATURE. MODEL INCLUDES
* DOUBLE DIFF INPUT PROTECTION DIODES.
* NOTE THAT SUPPLY CURRENT MODELED IS THAT OF A SINGLE AMPLIFIER ONLY
*/////////////////////////////////////////////////////////////////////////
Q33 7 8 9 QP
R45 10 11 1
R46 12 11 1
R47 13 14 1100
R49 15 16 2E3
R50 15 17 2E3
R51 18 19 1100
Q35 20 20 21 QP
Q36 22 22 20 QP
Q37 21 21 23 QN
Q38 23 23 22 QN
D13 21 24 DD
D14 19 24 DD
D15 25 26 DD
D16 25 19 DD
V9 21 26 0
D17 27 0 DIN
D18 28 0 DIN
I14 0 27 0.1E-3
I15 0 28 0.1E-3
C13 13 0 1.5E-12
C14 4 0 1.5E-12
D19 29 0 DVN
D20 30 0 DVN
I16 0 29 0.1E-3
I17 0 30 0.1E-3
E15 18 4 29 30 3.1
G5 13 18 27 28 3.5E-4
E16 31 0 9 0 1
E17 32 0 33 0 1
E18 34 0 35 0 1
R56 31 36 1E6
R57 32 37 1E6
R58 34 38 1E6
R59 0 36 100
R60 0 37 100
R61 0 38 100
E19 39 40 38 0 0.005
R62 41 35 1E3
R63 35 42 1E3
C15 31 36 1E-12
C16 32 37 1E-12
C17 34 38 100E-12
E20 43 39 37 0 -0.135
E21 13 43 36 0 0.028
C19 16 17 0.12E-12
M1 17 26 10 10 MDP L=2U W=700U
M2 16 19 12 12 MDP L=2U W=700U
G6 8 9 44 0 1.3E-5
R64 0 44 1E12
V52 44 0 1
V53 25 33 -0.08
V54 7 11 -1.0
G12 13 18 45 0 6.5E-5
R136 0 45 10E3
R137 0 45 10E3
R138 40 39 1E9
R139 39 43 1E9
R140 43 13 1E9
E54 42 0 13 0 1
E55 41 0 18 0 1
C23 13 18 0.05E-12
E57 40 3 46 0 4.49E-4
R146 40 3 1E9
R147 0 44 1E12
Q41 47 48 33 QLN
R148 48 49 1E3
R149 50 51 1E3
R150 52 6 5
R151 2 53 5
R153 54 55 1
R154 56 9 5
R155 33 57 5
D22 58 6 DD
D23 2 58 DD
E58 33 0 2 0 1
E59 9 0 6 0 1
R156 2 6 43.3E3
E60 59 33 9 33 0.51
D24 54 9 DD
D25 33 54 DD
M3 60 61 53 53 NLT L=3U W=2500U
M4 62 63 52 52 PLT L=3U W=2500U
M5 64 64 56 56 PLT L=3U W=2500U
M9 65 65 57 57 NLT L=3U W=2500U
R157 66 63 100
R158 67 61 100
G14 54 59 68 59 0.2E-3
R159 59 54 1.1E6
C24 55 69 8.84E-12
C25 58 0 0.5E-12
D26 61 47 DD
D27 70 63 DD
Q42 70 51 9 QLP
R160 58 62 10
R161 60 58 10
E61 71 59 16 17 1
R162 71 68 1E4
C26 68 59 0.1E-12
G15 72 59 54 59 -1E-3
G16 59 73 54 59 1E-3
G17 59 74 65 33 1E-3
G18 75 59 9 64 1E-3
D28 75 72 DD
D29 73 74 DD
R163 72 75 100E6
R164 74 73 100E6
R165 75 9 1E3
R166 33 74 1E3
E62 9 66 9 75 1
E63 67 33 74 33 1
R167 73 59 1E6
R168 74 59 1E6
R169 59 75 1E6
R170 59 72 1E6
G19 6 2 46 0 -1.15E-3
R171 59 68 1E9
R172 66 9 1E9
R173 33 67 1E9
G20 64 65 44 0 800U
I22 6 2 0.3E-3
L2 58 1 0.4E-9
R175 58 1 400
R176 64 9 1E8
R177 33 65 1E8
R178 53 61 1E8
R179 52 63 1E8
E99 9 50 6 52 4.8
E100 49 33 53 2 4.8
E124 69 0 58 0 1
R719 54 69 3E7
I30 0 76 1E-3
D46 76 0 DD
R278 0 76 10E6
V127 76 46 0.65
R279 0 46 10E6
R780 4 18 1E9
V128 9 24 -0.1
R281 19 22 50
E125 77 0 35 78 100
E126 79 0 78 35 100
M10 80 77 0 0 NSW
M11 81 79 0 0 NSW
R282 80 82 1E5
R283 81 82 1E5
V129 82 0 1
G21 0 3 81 0 0.9E-6
G22 3 0 80 0 1.5E-6
G23 4 0 80 0 1.5E-6
G24 0 4 81 0 0.9E-6
V130 9 78 1.5
V132 15 33 -0.7
R284 0 78 1E8
R285 0 77 1E8
R286 0 79 1E8
.MODEL DD D
.MODEL DVN D KF=2.5E-15
.MODEL DIN D KF=8E-15
.MODEL MDP PMOS KP=200U VTO=-0.7
.MODEL QN NPN
.MODEL QP PNP
.MODEL PLT PMOS KP=200U VTO=-0.7
.MODEL NLT NMOS KP=200U VTO=0.7
.MODEL NSW NMOS KP=200U VTO=0 IS=1E-18
.MODEL QLN NPN
.MODEL QLP PNP
.ENDS
* END MODEL LMH6619
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | |
.subckt LM139    1 2 3 4 5
*
  f1    9  3 v1 1
  iee   3  7 dc 100.0E-6
  vi1  21  1 dc .75
  vi2  22  2 dc .75
  q1    9 21  7 qin
  q2    8 22  7 qin
  q3    9  8  4 qmo
  q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=2.000E3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=475.4E-9)
  e1   10  4  9  4  1
  v1   10 11 dc 0
  q5    5 11  4 qoc
.model qoc NPN(Is=800.0E-18 Bf=20.69E3 Cjc=1E-15 Tf=3.540E-9 Tr=472.8E-9)
  dp    4  3 dx
  rp    3  4 37.50E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends




